US04558155
N-(1-Methylethyl)-2-[4-(methylthio)phenoxy]ethanamine
4-(Methylthio)phenol is reacted with a large excess of 1,2-dibromethane in the presence of an alkali metal base such as sodium or potassium hydroxide. The product of that reaction, 2-bromoethyl-4-methylthiophenyl ether, is then reacted with isopropylamine as in Preparation 1 to give the title compound.

reactant | 4-(Methylthio)phenol | CSC1=CC=C(C=C1)O | C7H8OS
reactant | 1,2-dibromethane | BrCCBr | C2H4Br2
reactant | sodium | [Na] | Na
reactant | potassium hydroxide | [OH-].[K+]
reactant | 2-bromoethyl-4-methylthiophenyl ether | BrCCC1=C(SC=C1C)OC=1SC=C(C1CCBr)C | C14H16Br2OS2
reactant | isopropylamine | C(C)(C)N | C3H9N
product | N-(1-Methylethyl)-2-[4-(methylthio)phenoxy]ethanamine | CC(C)NCCOC1=CC=C(C=C1)SC | C12H19NOS
